US05834506
4-Bromo-2-t-butyl-5-methylphenol
To a solution of 2-t-butyl-5-methylphenol (24.6 g, 150 mmol) in CCl4 (100 mL) at 0° C. was added a solution of bromine (7.7 mL, 150 mmol) in CCl4 (100 mL) over a 4 hour period. The mixture was stirred at room temperature for 30 minutes and then diluted with H2O. The organic phase was separated, washed with saturated sodium bisulfite and brine, and dried (MgSO4). Concentration gave a residue which was chromatographed on silica gel, eluting with 6:1 hexanes:EtOAc, to give the title compound. 1H NMR (CDCl3) δ 1.34 (s, 9 H), 2.24 (s, 3 H), 5.20 (s, 1 H), 6.54 (s, 1 H), 7.32 (s, 1 H).

reactant | 2-t-butyl-5-methylphenol | 150 mmol, 24.6 g | C(C)(C)(C)C1=C(C=C(C=C1)C)O | C11H16O
reactant | bromine | 150 mmol, 7.7 mL | BrBr | Br2
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | H2O | O | H2O
product | 4-Bromo-2-t-butyl-5-methylphenol | BrC1=CC(=C(C=C1C)O)C(C)(C)C | C11H15BrO
